US05665348
Into a two-necked flask provided with a reflux condenser and a dropping funnel were introduced 94.3 g (0.6 mol) of methacryloyloxyethyl-N,N-dimethylamine, 152 g of acetone and 0.1 g of hydroquinone monomethyl ether, which was employed as a polymerization inhibitor, and then mixed homogeneously. After dropping 75.9 g (0.6 mol) of benzyl chloride thereinto within about 15 minutes, the mixture was allowed to stand overnight under stirring at room temperature. Then the reaction mixture was washed with 500 ml of acetone to obtain crystals of methacryloyloxyethyl-N,N-dimethylbenzylammonium chloride.

reactant | methacryloyloxyethyl-N,N-dimethylamine | 0.6 mol, 94.3 g | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | hydroquinone monomethyl ether | 0.1 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | benzyl chloride | 0.6 mol, 75.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | 152 g | CC(=O)C | C3H6O
product | methacryloyloxyethyl-N,N-dimethylbenzylammonium chloride | [Cl-].C(C(=C)C)(=O)OCC[N+](C)(C)CC1=CC=CC=C1 | InChI=1S/C15H22NO2.ClH/c1-13(2)15(17)18-11-10-16(3,4)12-14-8-6-5-7-9-14;/h5-9H,1,10-12H2,2-4H3;1H/q+1;/p-1
